US06818658B2
Step D: Preparation of (3S,4R)-1-Tert-Butyl-4-(2,4-Difluorophenyl)Pyrrolidine-3-Carboxylic Acid Hydrochloride Salt (1-7)
A mixture of the methyl (3S,4R)-1-tert-butyl-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate enantiomer of Step C (1.37 g, 4.61 mmol) and potassium trimethylsilanolate (0.68 g, 5.30 mmol) in diethyl ether (23 mL) was stirred at room temperature overnight. A saturated solution of hydrogen chloride in ethyl acetate was then added, the volatiles were evaporated and the residual solid used without further purification in the preparation of Examples detailed below.

reactant | methyl (3S,4R)-1-tert-butyl-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate | C(C)(C)(C)N1C[C@H]([C@@H](C1)C1=C(C=C(C=C1)F)F)C(=O)OC | C16H21F2NO2
reactant | potassium trimethylsilanolate | 5.30 mmol, 0.68 g | C[Si]([O-])(C)C.[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 23 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S,4R)-1-Tert-Butyl-4-(2,4-Difluorophenyl)Pyrrolidine-3-Carboxylic Acid Hydrochloride Salt | Cl.C(C)(C)(C)N1C[C@H]([C@@H](C1)C1=C(C=C(C=C1)F)F)C(=O)O | InChI=1S/C15H19F2NO2.ClH/c1-15(2,3)18-7-11(12(8-18)14(19)20)10-5-4-9(16)6-13(10)17;/h4-6,11-12H,7-8H2,1-3H3,(H,19,20);1H/t11-,12+;/m0./s1
